US07482346B2
6.2. 2-(methylamino)-2-oxoethyl 4-{2-[3-(4-chlorophenyl)isoxazol-5-yl]ethyl}piperazine-1-carboxylate
A solution of 0.100 g (0.447 mmol) of 2-[3-(4-chlorophenyl)isoxazol-5-yl]ethanol, prepared in step 6.1., and 0.082 ml (0.47 mmol) of diisopropylethylamine in 5 ml of dichloromethane, is admixed with 0.036 ml (0.469 mmol) of methanesulphonyl chloride. The mixture is stirred at ambient temperature for 4 hours and then washed with saturated aqueous ammonium chloride solution and saturated aqueous sodium chloride solution. It is concentrated under reduced pressure. The residue is taken up in 5 ml of acetonitrile, and 0.107 g (0.45 mmol) of 2-(methylamino)-2-oxoethyl piperazine-1-carboxylate hydrochloride, prepared in accordance with Example 3.3., and 0.186 g (1.35 mmol) of potassium carbonate are added. The mixture is heated at 75° C. for 16 hours. After cooling to ambient temperature, it is concentrated under reduced pressure. The residue is taken up in ethyl acetate and washed with water and then with saturated aqueous sodium chloride solution. The mixture is evaporated and the residue is purified by chromatography on silica gel, eluting with dichloromethane and then with a 90/10 mixture of dichloromethane and methanol. This gives 0.054 g (0.132 mmol) of product in the form of a white solid.

reactant | 2-[3-(4-chlorophenyl)isoxazol-5-yl]ethanol | 0.447 mmol, 0.100 g | ClC1=CC=C(C=C1)C1=NOC(=C1)CCO | C11H10ClNO2
reactant | diisopropylethylamine | 0.47 mmol, 0.082 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 0.469 mmol, 0.036 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(methylamino)-2-oxoethyl piperazine-1-carboxylate hydrochloride | 0.45 mmol, 0.107 g | Cl.N1(CCNCC1)C(=O)OCC(=O)NC
reactant | potassium carbonate | 1.35 mmol, 0.186 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(methylamino)-2-oxoethyl 4-{2-[3-(4-chlorophenyl)isoxazol-5-yl]ethyl}piperazine-1-carboxylate | ClC1=CC=C(C=C1)C1=NOC(=C1)CCN1CCN(CC1)C(=O)OCC(=O)NC | C19H23ClN4O4
